US06911561B2
It is possible to use a lower concentration of hydrogen peroxide. For example, from a commercially available 30% solution of hydrogen peroxide in water it is possible to produce an 8% (mole) solution of bis(trifluoroacetyl) peroxide (BPFAP) in trifluoroacetic acid. This solution was obtained when 30% H2O2 (1.77 g, 15.6 mmol H2O2) was added dropwise into a well-stirred solution of RfCOOK (6.8 mg, 0.047 mmol) in freshly distilled bis(trifluoroacetyl) anhydride (21 g, 100 mmol) at 0° C. After adding the H2O2, the reaction mixture was stirred for 10 minutes (min) at 0° C. The concentration of BPFAP was measured by 19F NMR spectra.

reactant | hydrogen peroxide | OO | H2O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | O | H2O
product | bis(trifluoroacetyl) peroxide | FC(C(=O)OOC(C(F)(F)F)=O)(F)F | C4F6O4
